US08212041B2
6-(1-(6-Phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl)quinoline
To a 2-5 ml Personal Chemistry microwave vial was added 2-(quinolin-6-yl)propanoic acid (0.25 g, 1.2 mmol), 1-(6-phenylpyridazin-3-yl)hydrazine (0.42 g, 2.2 mmol) and conc. HCl (2 mL). The mixture was heated in the microwave at 160° C. for 8 h. After cooling to rt, the mixture was poured into sat. NaHCO3 (100 mL) and then extracted with EtOAc (4×75 mL). The combined extracts were washed with brine, dried (Na2SO4) and concentrated onto silica. Purification by silica gel chromatography (1.0 to 4.5% MeOH (2 M in NH3)/CH2Cl2) afforded the title compound as an off-white solid (0.23 g, 53% yield). MS (ESI, pos. ion) m/z: 352 (M+1).

reactant | 2-(quinolin-6-yl)propanoic acid | 1.2 mmol, 0.25 g | N1=CC=CC2=CC(=CC=C12)C(C(=O)O)C | C12H11NO2
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 2.2 mmol, 0.42 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | HCl | 2 mL | Cl | ClH
solvent | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
product | 6-(1-(6-Phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)ethyl)quinoline | 0.23 g, 53% yield | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)C(C)C=2C=C1C=CC=NC1=CC2 | C22H17N5
